US05238958
α-[(Phenylcarbonyl)amino]-1,4-benzenediacetic acid
A solution of phenyl acetic acid (10.0 g, 73.5 mmol) in 25 ml methanesulfonic acid is treated with α-hydroxyhippuric acid (3.58 g, 18.4 mmol) and the resulting solution stirred at room temperature for 24 hours. The reaction mixture is poured onto ice (200 g) and the product extracted into ethyl acetate (3×200 ml). The combined organic layers are dried (Na2SO4) and concentrated. The residue is recrystallized from THF/diisopropyl ether. A tan solid which is α-[(phenylcarbonyl)amino]-1,4-benzenediacetic acid is obtained (1.5 g, 26%), mp 180°-220° C.

reactant | phenyl acetic acid | 73.5 mmol, 10.0 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | α-hydroxyhippuric acid | 18.4 mmol, 3.58 g | OC(C(=O)O)NC(=O)C1=CC=CC=C1 | C9H9NO4
solvent | methanesulfonic acid | 25 ml | CS(=O)(=O)O | CH4O3S
product | α-[(Phenylcarbonyl)amino]-1,4-benzenediacetic acid | C1(=CC=CC=C1)C(=O)NC(C(=O)O)C1=CC=C(C=C1)CC(=O)O | C17H15NO5
